US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(2-furoylamino)-1-benzothiophene-2-carboxamide hydrochloride
30 mg (0.08 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzo-thiophene-2-carboxamide dihydrochloride are dissolved in 1 ml of DMF, and 33.5 μl (0.24 mmol) of triethylamine are added. At 0° C., 15.7 mg (0.12 mmol) of furan-2-carbonyl chloride are added. After 3 h of stirring at RT, the reaction mixture is separated by preparative HPLC. The product fraction is concentrated under reduced pressure and codistilled with 4M HCl in dioxane. 12 mg (34.7% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzo-thiophene-2-carboxamide dihydrochloride | 0.08 mmol, 30 mg | Cl.Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)N
reactant | triethylamine | 0.24 mmol, 33.5 μl | C(C)N(CC)CC | C6H15N
reactant | furan-2-carbonyl chloride | 0.12 mmol, 15.7 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(2-furoylamino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)NC(=O)C=1OC=CC1 | InChI=1S/C21H21N3O3S.ClH/c25-20(17-2-1-9-27-17)22-15-3-4-18-14(10-15)11-19(28-18)21(26)23-16-12-24-7-5-13(16)6-8-24;/h1-4,9-11,13,16H,5-8,12H2,(H,22,25)(H,23,26);1H/t16-;/m0./s1
